US04212877
13.2 gm of N-(2-hydroxy-propyl)-benzimidazolone were dissolved in 150 ml of dioxane, and after addition of 8 ml of SOCl2 the mixture was refluxed for one hour. After evaporation in vacuo, the residue was dissolved in ethyl acetate, and the solution was washed with a sodium bicarbonate solution and water, and dried over Na2SO4. After distilling off the solvent, 13.4 gm of N-(2-chloro-propyl)-benzimidazolone were obtained.

reactant | N-(2-hydroxy-propyl)-benzimidazolone | 13.2 gm | OC(CN1C(NC2=C1C=CC=C2)=O)C | C10H12N2O2
reactant | SOCl2 | 8 ml | O=S(Cl)Cl | Cl2OS
solvent | dioxane | 150 ml | O1CCOCC1 | C4H8O2
product | N-(2-chloro-propyl)-benzimidazolone | 13.4 gm | ClC(CN1C(NC2=C1C=CC=C2)=O)C | C10H11ClN2O
